US09210927B2
Preparation of (E)-1-(4-(4-(3,5-Dichlorophenyl)-5,5,5-trifluoropent-2-en-2-yl)phenyl)-1H-1,2,4-triazole (DC68)
To a solution of 2-(4-(1H-1,2,4-triazol-1-yl)phenyl)-4-(3,5-dichlorophenyl)-5,5,5-trifluoropentan-2-ol (100 mg, 0.233 mmol) in toluene was added a catalytic amount of p-toluenesulfonic acid (PTSA) and the water was removed by azeotropic distillation over the course of 12 h. The reaction mixture was cooled to room temperature and dissolved in ethyl acetate. The solution was washed with sat aq NaHCO3 solution and brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by column chromatography (SiO2, 100-200 mesh; 20%-25% EtOAc in petroleum ether) afforded the title compound as a solid (30 mg, 31%).

reactant | 2-(4-(1H-1,2,4-triazol-1-yl)phenyl)-4-(3,5-dichlorophenyl)-5,5,5-trifluoropentan-2-ol | 0.233 mmol, 100 mg | N1(N=CN=C1)C1=CC=C(C=C1)C(C)(CC(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)O | C19H16Cl2F3N3O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-1-(4-(4-(3,5-Dichlorophenyl)-5,5,5-trifluoropent-2-en-2-yl)phenyl)-1H-1,2,4-triazole | 30 mg, 31% | ClC=1C=C(C=C(C1)Cl)C(/C=C(\C)/C1=CC=C(C=C1)N1N=CN=C1)C(F)(F)F | C19H14Cl2F3N3
